US07888349B2
Concentrated ammonium hydroxide (160 mL) was added with vigorous stirring to a solution of tert-butyl 5-oxido-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate (28.49 g, 83.7 mmol) in dichloromethane (300 mL). p-Toluenesulfonyl chloride (15.96 g, 83.7 mmol) was added in small portions over a period of five minutes, after which an analysis by HPLC indicated that the reaction was complete. The aqueous layer was then extracted with dichloromethane (3×150 mL), and the combined organic fractions were washed with 1% aqueous sodium carbonate (2×150 mL). The combined aqueous washings were extracted with dichloromethane (200 mL), and all organic fractions were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide tert-butyl 6-amino-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate as a yellow solid.

reactant | ammonium hydroxide | 160 mL | [OH-].[NH4+]
reactant | tert-butyl 5-oxido-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate | 83.7 mmol, 28.49 g | [O-][N+]1=CC2=C(C3=CC=CC=C13)N1C(=N2)CN(CC1)C(=O)OC(C)(C)C | C18H20N4O3
reactant | p-Toluenesulfonyl chloride | 83.7 mmol, 15.96 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | tert-butyl 6-amino-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate | NC1=NC2=CC=CC=C2C2=C1N=C1N2CCN(C1)C(=O)OC(C)(C)C | C18H21N5O2
